US06538000B1
9-(3-Bromo-4-fluorophenyl)-7,7-dimethyl-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one
4,4-Dimethyl-1,3-cyclohexanedione, 3-bromo-4-fluorobenzaldehyde and 3-aminopyrazole were processed as described in General Procedure A to provide the title compound.

reactant | 4,4-Dimethyl-1,3-cyclohexanedione | CC1(C(CC(CC1)=O)=O)C | C8H12O2
reactant | 3-bromo-4-fluorobenzaldehyde | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 9-(3-Bromo-4-fluorophenyl)-7,7-dimethyl-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one | BrC=1C=C(C=CC1F)C1N2C(NC=3CCC(C(C13)=O)(C)C)=CC=N2 | C18H17BrFN3O
